US07476677B2
N-[4-(methylthio)thieno[2,3-d]pyrimidin-6-ylmethylidene]methanamine
4-(Methylthio)thieno[2,3-d]pyrimidine-6-carbaldehyde (13 g), methylamine (33% in EtOH, 20.6 mL) and anhydrous MgSO4 (20 g) was stirred in DCM (465 ml) for 2 days at ambient temperature under an inert atmosphere. The reaction mixture was filtered then concentrated in vacuo to afford the title compound as a brown solid (13.8 g, 100%);

reactant | 4-(Methylthio)thieno[2,3-d]pyrimidine-6-carbaldehyde | 13 g | CSC=1C2=C(N=CN1)SC(=C2)C=O | C8H6N2OS2
reactant | methylamine | 20.6 mL | CN | CH5N
reactant | MgSO4 | 20 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | DCM | 465 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(methylthio)thieno[2,3-d]pyrimidin-6-ylmethylidene]methanamine | 13.8 g, 100% | CSC=1C2=C(N=CN1)SC(=C2)C=NC | C9H9N3S2
